US04826531
To a stirred solution of 4-phenoxy-3-pyridinecarboxaldehyde (0.687 g, 3.45 mmol) and methyl methylsulphinylmethyl sulphide (0.429 g, 3.45 mmol) in THF was added dropwise Triton B (0.53 ml, 40% solution in methanol). The mixture was heated at reflux for 2 hours, allowed to cool and then diluted with dichloromethane (150 ml). The solution was washed with saturated brine (2×) and the solvent was evaporated. Flash chromatography (eluent ether-ethyl acetate) of the resulting residue gave 3-(2'-methylsulphinyl-2'-methylthiovinyl)-4-phenoxypyridine as a pale yellow gum (0.128 g); 1H NMR delta (CDCl3) 2.32 (3H, s), 2.77 (3H, s), 6.60 (1H, d), 6.9-7.5 (5H, m), 7.93 (1H, s), 8.32 (1H, d), 9.10 (1H, s).

reactant | 4-phenoxy-3-pyridinecarboxaldehyde | 3.45 mmol, 0.687 g | O(C1=CC=CC=C1)C1=C(C=NC=C1)C=O | C12H9NO2
reactant | methyl methylsulphinylmethyl sulphide | 3.45 mmol, 0.429 g | CS(=O)CSC | C3H8OS2
solvent | THF | C1CCOC1 | C4H8O
solvent | methanol | CO | CH4O
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
product | 3-(2'-methylsulphinyl-2'-methylthiovinyl)-4-phenoxypyridine | 0.128 g | CS(=O)C(=CC=1C=NC=CC1OC1=CC=CC=C1)SC | C15H15NO2S2
